US07977477B2
To a solution of EDC (720 mg, 3.8 mmol), HOBt (510 mg, 3.8 mmol) and 4-(5-tert-butyl-2-methoxy-benzoylamino)-1H-pyrazole-3-carboxylic acid (1 g, 3.16 mmol) in DMF (25 ml) was added benzene-1,2-diamine (375 mg, 3.5 mmol) and the mixture stirred at room temperature for 5 hours. The mixture was reduced in vacuo and the residue partitioned between EtOAc (50 ml) and brine (2×50 ml). Undissolved precipitate was removed by filtration, the organic portions washed with saturated aqueous sodium hydrogen carbonate (50 ml), dried (MgSO4) and reduced in vacuo to yield 4-(5-tert-butyl-2-methoxy-benzoylamino)-1H-pyrazole-3-carboxylic acid (2-amino-phenyl)-amide as a pale yellow powder (848 mg, 66%). (LC/MS (acidic method): Rt 3.21 min, [M+H]+ 408).

reactant | EDC | 3.8 mmol, 720 mg
reactant | HOBt | 3.8 mmol, 510 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-(5-tert-butyl-2-methoxy-benzoylamino)-1H-pyrazole-3-carboxylic acid | 3.16 mmol, 1 g | C(C)(C)(C)C=1C=CC(=C(C(=O)NC=2C(=NNC2)C(=O)O)C1)OC | C16H19N3O4
reactant | benzene-1,2-diamine | 3.5 mmol, 375 mg | C=1(C(=CC=CC1)N)N | C6H8N2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 4-(5-tert-butyl-2-methoxy-benzoylamino)-1H-pyrazole-3-carboxylic acid (2-amino-phenyl)-amide | 848 mg, 66% | NC1=C(C=CC=C1)NC(=O)C1=NNC=C1NC(C1=C(C=CC(=C1)C(C)(C)C)OC)=O | C22H25N5O3
